US09035066B2
Histamine dihydrochloride (61.9 g, 336 mmol) was dissolved in a solution of NaOH (33.6 g, 841 mmol) in water (125 mL) and MeOH (500 mL), and isobutyraldehyde (61.4 mL, 672 mmol) was added. The reaction mixture was heated under reflux at 80° C. for 24 h, cooled to room temperature, the pH was adjusted to 7 with 1 M aq HCl solution (250 mL) and the solvents were removed in vacuo. The residue was dissolved in warm MeOH (300 mL), allowed to stand for 1 h, filtered and the solvents were removed in vacuo. The residue was stirred in MeOH (50 mL) and acetone (400 mL) for 2 h and was cooled to 4° C. for 2 h. The resulting precipitate was filtered and washed with acetone (100 mL) to give 4-isopropyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine hydrochloride (33.0 g, 48.7%) as a white solid.

reactant | Histamine dihydrochloride | 336 mmol, 61.9 g | Cl.Cl.NCCC1=CNC=N1
reactant | NaOH | 841 mmol, 33.6 g | [OH-].[Na+]
reactant | isobutyraldehyde | 672 mmol, 61.4 mL | C(C(C)C)=O | C4H8O
reactant | HCl | 1 M, 250 mL | Cl | ClH
solvent | water | 125 mL | O | H2O
solvent | MeOH | 500 mL | CO | CH4O
product | 4-isopropyl-4,5,6,7-tetrahydro-1H-imidazo[4,5-c]pyridine hydrochloride | 33.0 g, 48.7% | Cl.C(C)(C)C1NCCC2=C1N=CN2 | InChI=1S/C9H15N3.ClH/c1-6(2)8-9-7(3-4-10-8)11-5-12-9;/h5-6,8,10H,3-4H2,1-2H3,(H,11,12);1H
